US04451462
A solution of 2.7 g (10 mmoles) of 3-[2-acetoxy-5-methyl-4-(pyrrol-1-yl)-phenyl]-1-butene in 40 ml of absolute methylene chloride is cooled to -78° with acetone/dry ice and ozone is blown through until the blue colour no longer disappears. Then, 2 ml of dimethyl sulphide are added and the cooling bath is removed. The reaction mixture is carefully concentrated in a vacuum rotary evaporator, the residue is dissolved in 50 ml of ethanol, and a solution of 3.7 g (23 mmoles) of silver nitrate in 5 ml of water is added. A solution of 75 ml of a 1 N potassium hydroxide solution is added dropwise to this mixture in the course of approximately 15 minutes. The heterogeneous mixture is further stirred for another 2 hours. The reaction mixture is filtered and the residue is washed with ethanol. The alkaline filtrate is left to stand overnight at room temperature and extracted with methylene chloride. The alkaline solution is cautiously acidified with 6 N hydrochloric acid while cooling and repeatedly extracted with methylene chloride. The organic phases are again washed twice with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Recrystallisation from diisopropyl ether/petroleum ether yields 2-[2-hydroxy-5-methyl-4-(pyrrol-1-yl)phenyl]-propionic acid having a melting point of 73°-74°.

reactant | 3-[2-acetoxy-5-methyl-4-(pyrrol-1-yl)-phenyl]-1-butene | 10 mmoles, 2.7 g | C(C)(=O)OC1=C(C=C(C(=C1)N1C=CC=C1)C)C(C=C)C | C17H19NO2
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulphide | 2 ml | CSC | C2H6S
reactant | potassium hydroxide | 1 N | [OH-].[K+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
catalyst | silver nitrate | 23 mmoles, 3.7 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-[2-hydroxy-5-methyl-4-(pyrrol-1-yl)phenyl]-propionic acid | OC1=C(C=C(C(=C1)N1C=CC=C1)C)C(C(=O)O)C | C14H15NO3
